US06215019B1
FIG. 9 shows a synthesis of 9-tetradecenyl formate, which is an analog of the Diamondback Moth (DBM) pheromone. With reference again to FIG. 3A, 5-decene was produced as in Examples 1 or 2 above or with the substitution of catalyst 2 for Grubbs' catalyst. With reference to FIG. 9, 5-decene is cross-metathesized with 9-decenol under vacuum and in the presence of Grubbs' catalyst to produce 9-tetradecenol (not shown) while 1-hexene is removed from the reaction as it is generated. Then, formyl acetate reacts with the 9-tetradecenol to produce the 9-tetradecenyl formate.

reactant | 5-decene | CCCCC=CCCCC | C10H20
reactant | 9-decenol | C(CCCCCCCC=C)O | C10H20O
catalyst | Grubbs' catalyst | Cl[Ru](Cl)([P](C1CCCCC1)(C2CCCCC2)C3CCCCC3)([P](C4CCCCC4)(C5CCCCC5)C6CCCCC6)=CC7=CC=CC=C7
product | 9-tetradecenol | C(CCCCCCCC=CCCCC)O | C14H28O
